US07067540B2
Step 1: Preparation of 3-[3-bromo-4-[(2,4-difluorobenzyl)oxy]-6-methyl-2-oxopyridin-1(2H)-yl]-4-methylbenzaldehyde.
3-bromo-4-[(2,4-difluorobenzyl)oxy]-1-[5-(hydroxymethyl)-2-methylphenyl]-6-methylpyridin-2(1H)-one (1.5 g, 3.33 mmol) was dissolved in 75% CH3CN/CH2Cl2 (20 ml) and cooled to 0° C. Dess-Martin Periodinane(2.8 g, 6.66 mmol) was added and the reaction stirred for four hours. At this time, the reaction was quenched with 5% sodium bisulfite (aq.). The product was extracted with ethyl acetate. The combined organic extracts were then washed with saturated NaHCO3 (aq.). The aqueous layer was extracted with ethyl acetate. The combined organic extracts were dried over Na2SO4, filtered, and concentrated. The resulting residue was taken up in diethyl ether and the precipitate was collected on a filter pad and washed with more diethyl ether to yield a white solid (1.35 g, 91%). 1H NMR (300 MHz, CDCl3) δ 10.00 (s, 1H), 7.91 (dd, J=7.65, 1.61 Hz, 1H), 7.65 (m, 2H), 7.57 (d, J=7.85 Hz, 1H), 7.03 (m, 1H), 6.95 (ddd, J=12.69, 8.86, 2.62 Hz, 1H), 6.19 (s, 1H), 5.31 (s, 2H), 2.20 (s, 3H), 1.96 (s, 3H); ES-MS m/z 448 (M+H). ES-HRMS m/z 448.0347 (M+H calcd for C21H17BrF2NO3 requires 448.0354).

reactant | 3-bromo-4-[(2,4-difluorobenzyl)oxy]-1-[5-(hydroxymethyl)-2-methylphenyl]-6-methylpyridin-2(1H)-one | 3.33 mmol, 1.5 g | BrC=1C(N(C(=CC1OCC1=C(C=C(C=C1)F)F)C)C1=C(C=CC(=C1)CO)C)=O | C21H18BrF2NO3
reactant | Dess-Martin Periodinane | 6.66 mmol, 2.8 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | CH3CN CH2Cl2 | 20 ml | CC#N.C(Cl)Cl
product | 3-[3-bromo-4-[(2,4-difluorobenzyl)oxy]-6-methyl-2-oxopyridin-1(2H)-yl]-4-methylbenzaldehyde | 1.35 g, 91% | BrC=1C(N(C(=CC1OCC1=C(C=C(C=C1)F)F)C)C=1C=C(C=O)C=CC1C)=O | C21H16BrF2NO3
